US05021413
3-(pyrrolidin-1-ylmethyl)-4-(2-thienylacetyl)thiomorpholine hydrochloride
The procedure described in Example 17 was repeated, but using 1.0 g of 3-(pyrrolidin-1-ylmethyl)thiomorpholine, 2.49 ml of triethylamine and 1.03 g of 2-thienylacetyl chloride, to afford 0.37 g of the title compound, melting at 204°-206° C. (dec.).

reactant | 3-(pyrrolidin-1-ylmethyl)thiomorpholine | 1.0 g | N1(CCCC1)CC1NCCSC1 | C9H18N2S
reactant | 2-thienylacetyl chloride | 1.03 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | triethylamine | 2.49 ml | C(C)N(CC)CC | C6H15N
product | 3-(pyrrolidin-1-ylmethyl)-4-(2-thienylacetyl)thiomorpholine hydrochloride | 0.37 g | Cl.N1(CCCC1)CC1N(CCSC1)C(CC=1SC=CC1)=O | InChI=1S/C15H22N2OS2.ClH/c18-15(10-14-4-3-8-20-14)17-7-9-19-12-13(17)11-16-5-1-2-6-16;/h3-4,8,13H,1-2,5-7,9-12H2;1H
